reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3][C:5]([O:6][H:18])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:12])([H:13])([H:14])[H:15],90.74190377017106
[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C:4]1)[H:6].[O:5]([H:10])[H:11]>>[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6],6.021854690319401
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C@@:2]1([H:10])[O:3][C@@:4]1([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])[H:9],101.808701143753
[C:1]([H:7])([H:8])([H:9])[H:13].[C:2](=[O+:3][C:4](=[C:5]=[N-:6])[H:12])([H:10])[H:11]>>[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],28.298355268420806
[O:1]([C:3]1([N:2])[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],6.829088208919394
[N:3](=[C:4](/[C:5]#[C:6][H:11])[H:9])\[H:8].[O:1]=[C:2]([H:7])[H:10]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],52.3566755708385
[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[O:7])[H:19])([H:17])[H:20])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][H:21],94.0772866790083
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[N:6]=[C:5]=[C:4]([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9],61.54137033656539
[C:1]([C:2](=[C:3]=[C:4]=[C:5]([O:6][H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],45.3574039505289
[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]([N+:4]#[C-:3])([C:5]#[N:6])[H:9])([H:7])[H:8],51.1372003630433
[C:1]([C:2][C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])([H:7])([H:8])[H:9].[C:3]([H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9],8.369598224827698
[C:1]([C@@:2]12[C:3]([H:11])([H:13])[C@@:4]3([H:12])[C:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C@@:3]3([H:11])[C@:4]4([H:12])[C@@:5]3([H:13])[C@@:6]1([H:14])[C@:7]24[H:15])([H:8])([H:9])[H:10],46.72888770706778
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4][H:12])[H:8])([H:5])([H:6])[H:7]>>[C:1]([C:3]([C:2](=[O:4])[H:8])([H:9])[H:11])([H:5])([H:6])[H:7].[H:10][H:12],108.15251227034099
[C:1]([C:2]([C:3]([O:4][H:13])=[C:5]=[C:6]([H:12])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],76.21860769033658
[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7]>>[C:1](=[N:2][H:8])([H:5])[H:6].[C:3](=[O:4])([H:7])[H:9],90.0010461584903
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([H:10])([H:11])[H:14])([H:7])([H:8])[H:9].[O:3]=[C:4]([H:12])[H:13],73.66550906039129
[C:1]([C@@:2]1([H:11])[N:3]([H:13])[C:4]([N-:5][H:14])=[C+:6][N:7]1[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],58.7180195443327
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:17][H:18],83.9789117425218
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[N:6]([H:8])([H:12])[H:13].[O:3]=[C:4]=[O:5]>>[C:1]([C:2]([O:3][C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],49.3459216794982
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])=[C:6]=[C:7]([O:5][H:16])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10],63.9693689377176
[O:1]([C:2]([C:3](=[O:4])[H:8])([H:6])[H:7])[H:5]>>[O:1]([O:4][C:3](=[C:2]([H:6])[H:7])[H:8])[H:5],122.82329689930401
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C-:1]([O+:2]=[C:3]([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])[H:10].[C:4]([H:9])([H:12])([H:13])[H:14],92.49699367598801
[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4][O:5][H:13])([H:10])[H:11])([H:9])[H:12])([H:6])([H:7])[H:8],55.0762450985429
[C:1]1([H:8])=[C:2]2/[C:3](=[N:7]\[H:11])[C@:4]12[H:9].[C:5](#[N:6])[H:10]>>[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[n:6][n:7]1[H:11])[H:8],41.44464089405841
